US07282217B1
Hyoscyamine sulfate (0.188 kg) is added to 2.0 kg of Purified Water, USP, in a stainless steel container. An additional 1.0 kg of Purified Water, USP, is added to rinse the remaining hyoscyamine suflate, and the rinse solution is added to the solution in the stainless steel container to form a concentrated hyoscyamine solution. The concentrated hyoscyamine solution is transferred, with slow addition, to a stainless steel mixing tank containing 15.0 kg of Purified Water, USP. The stainless steel mixing tank is equipped with a mixer, and the resulting diluted hyoscyamine solution is mixed slowly for 15 minutes. The container used to prepare the concentrated hyoscyamine solution is rinsed with an additional 1.0 kg of Purified Water, USP, and the rinse solution is added to the stainless steel mixing tank containing the mixed diluted hyoscyamine solution.

reactant | Hyoscyamine sulfate | 0.188 kg | CN1[C@@H]2CC[C@H]1C[C@H](C2)OC(=O)[C@H](CO)C=3C=CC=CC3.OS(=O)(=O)O
solvent | Water | 1.0 kg | O | H2O
solvent | Water | 2.0 kg | O | H2O
product | hyoscyamine | CN1[C@@H]2CC[C@H]1C[C@H](C2)OC(=O)[C@H](CO)C=3C=CC=CC3 | C17H23NO3
